US04048334
Into a three-necked flask equipped with a mechanical stirrer, a dropping-funnel, a thermometer and a condenser, were introduced 200 ml of water and 90 ml of concentrated hydrochloric acid (d=1.19). The acid solution was heated to 90° C and then, under vigorous stirring, 105 g of 1,1-di-n-propyl-n-butylisocyanate, prepared as previously described, were slowly added. The operation of addition lasted one hour after which the reaction medium was heated for a further 4 hours at a temperature between about 95° and 100° C. The mixture was then cooled to about 0° C and the colourless crystals so obtained were filtered off dried by exposure to the air and then in a dessicator in the presence of potassium hydroxide. In this manner, 99 g of 1,1-di-n-propyl-n-butylamine hydrochloride were isolated in the form of a white crystalline powder.

reactant | hydrochloric acid | 90 ml | Cl | ClH
reactant | 1,1-di-n-propyl-n-butylisocyanate | 105 g | C(CC)C(CCC)(CCC)N=C=O | C11H21NO
solvent | water | 200 ml | O | H2O
product | 1,1-di-n-propyl-n-butylamine hydrochloride | 99 g, Yield: 90% | Cl.C(CC)C(CCC)(CCC)N | InChI=1S/C10H23N.ClH/c1-4-7-10(11,8-5-2)9-6-3;/h4-9,11H2,1-3H3;1H
